US04642313
6.0 g of (3-furylcarbonyl)methylamine hydrochloride, 7.8 g of sodium bicarbonate and 5.7 g of benzoyl chloride are treated in the same manner as described in Preparation 1-(1). 7.8 g of N-benzoyl-(3-furylcarbonyl)methylamine are thereby obtained. Yield: 91.8%

reactant | (3-furylcarbonyl)methylamine hydrochloride | 6.0 g | Cl.O1C=C(C=C1)C(=O)CN
reactant | sodium bicarbonate | 7.8 g | C([O-])(O)=O.[Na+]
reactant | benzoyl chloride | 5.7 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | N-benzoyl-(3-furylcarbonyl)methylamine | 7.8 g, Yield: 91.8% | C(C1=CC=CC=C1)(=O)NCC(=O)C1=COC=C1 | C13H11NO3
